US07045539B2
4-Bromo-6-hydroxy-2-(4-hydroxy-phenyl)-benzothiazole
4-Bromo-6-methoxy-2-(4-Methoxy-phenyl)-benzothiazole (200 mg, 0.57 mmol) was suspended in boron tribromide (1M in methylene chloride, 7.5 mL) and stirred at room temp under nitrogen for 3.0 hr. Reaction was poured into aqueous hydrochloric acid (1M) and extracted with ethyl acetate. Ethyl acetate extracts were washed with: 1) hydrochloric acid (1.0M), 2) saturated brine and concentrated in vacuo. Washed solid was further purified by flash chromatography on silica affording the title compound (184 mg, 100%) as a yellow solid. MH+=322

reactant | 4-Bromo-6-methoxy-2-(4-Methoxy-phenyl)-benzothiazole | 0.57 mmol, 200 mg | BrC1=CC(=CC2=C1N=C(S2)C2=CC=C(C=C2)OC)OC | C15H12BrNO2S
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | boron tribromide | 1M, 7.5 mL | B(Br)(Br)Br | BBr3
product | 4-Bromo-6-hydroxy-2-(4-hydroxy-phenyl)-benzothiazole | BrC1=CC(=CC2=C1N=C(S2)C2=CC=C(C=C2)O)O | C13H8BrNO2S
